US06835733B2
Preparation of 2,5-Dibromo-3,4-dihydro-1(2H)-naphthalenone
A clear yellow solution of 5-bromo-3,4-dihydro-1(2H)-naphthalenone (12.09 g, 53.7 mmol) in freshly opened Et2O (220 mL) under an N2 atmosphere was chilled to −5° C. HCl was bubbled in subsurface for 1 min, causing no visible change. The dropwise addition of a solution of Br2 (8.58 g, 53.7 mmol) in CH2Cl2 (20 mL) and Et2O (2 mL) to the vigorously stirring solution of 5-bromo-3,4-dihydro-1(2H)-naphthalenone over 2 h (each drop was allowed to fully decolorize before adding the next) produced a product mixture that assayed by HPLC. Peak area showed 79.4% title compound, 9.5% unreacted 5-bromo-3,4-dihydro-1(2H)-naphthalenone, 0.6% unidentified, and 9.4% 2,2,5-tribromo-1-tetralone. The addition of H2O produced a top light brown organic phase, and a clear, colorless bottom aqueous phase which was separated. After drying with MgSO4, the organic layer was concentrated under vacuum at room temperature to give the crude intermediate title compound as a light brown oil (16.08 g, 98.5%).

reactant | 2,2,5-tribromo-1-tetralone | BrC1(C(C2=CC=CC(=C2CC1)Br)=O)Br | C10H7Br3O
solvent | H2O | O | H2O
product | 2,5-Dibromo-3,4-dihydro-1(2H)-naphthalenone | 16.08 g, 98.5% | BrC1C(C2=CC=CC(=C2CC1)Br)=O | C10H8Br2O
